US09259470B2
A solution of 2-(tert-butyldimethylsilyloxy)acetaldehyde (2.00 g, 10.3 mmol) in dry THF (40 mL) was placed in an ice bath, and (4-chloro-3-fluorophenyl)magnesium bromide (24.8 mL, 12.4 mmol) was added dropwise via a syringe. The reaction mixture was stirred at 0° C. for 1 hour and then carefully quenched by dropwise addition of water. The reaction mixture was concentrated, and the residue was partitioned between EtOAc and saturated aqueous NH4Cl. The organics were dried, filtered and concentrated. The crude product was purified by column chromatography, eluting with hexanes/EtOAc (20:1) to give 2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethanol (2.92 g, 9.58 mmol, 92.8% yield) as an oil.

reactant | 2-(tert-butyldimethylsilyloxy)acetaldehyde | 10.3 mmol, 2.00 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | (4-chloro-3-fluorophenyl)magnesium bromide | 12.4 mmol, 24.8 mL | ClC1=C(C=C(C=C1)[Mg]Br)F
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethanol | 9.58 mmol, 2.92 g, 92.8% yield | [Si](C)(C)(C(C)(C)C)OCC(O)C1=CC(=C(C=C1)Cl)F | C14H22ClFO2Si
